US08455488B2
Synthesis of (R)-2-(1-allyl-2-(1-phenylethylcarbamoyl)hydrazinyl)acetic acid (Compound VI-4)
According to the procedure described in the synthesis method of Compound VI-2 with the modification that the reaction was carried out for 2 hours, (R)-ethyl 2-(1-allyl-2-(1-phenylethylcarbamoyl)hydrazinyl)acetate (Compound V-3) 229 mg (0.75 mmol) was reacted with lithium hydroxide monohydrate 38 mg (0.9 mmol) to obtain the title compound 202 mg (97%).

reactant | (R)-ethyl 2-(1-allyl-2-(1-phenylethylcarbamoyl)hydrazinyl)acetate | 0.75 mmol, 229 mg | C(C=C)N(NC(N[C@H](C)C1=CC=CC=C1)=O)CC(=O)OCC | C16H23N3O3
reactant | lithium hydroxide monohydrate | 0.9 mmol, 38 mg | O.[OH-].[Li+]
product | (R)-2-(1-allyl-2-(1-phenylethylcarbamoyl)hydrazinyl)acetic acid | 202 mg, 97% | C(C=C)N(NC(N[C@H](C)C1=CC=CC=C1)=O)CC(=O)O | C14H19N3O3
